US06846835B2
(2R)-2-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy)-8-oxa-5-azoniaspiro[4.5]decane chloride
To an acetonitrile solution containing 11 mg of (3R)-pyrrolidin-3-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate, 30 mg of 1-chloro-2-(2-chloroethoxy)ethane was added at room temperature, followed by 12 hours' heating under reflux. Distilling the solvent off under reduced pressure, the residue was purified on preparative thin layer chromatography (Aluminiumoxide™60F254 Art5713 (Merck), chloroform/methanol=10/1) to provide 2.8 mg of the title compound as a colorless oily substance.

reactant | (3R)-pyrrolidin-3-yl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 11 mg | FC1(C[C@@H](CC1)[C@](C(=O)O[C@H]1CNCC1)(C1=CC=CC=C1)O)F | C17H21F2NO3
reactant | 1-chloro-2-(2-chloroethoxy)ethane | 30 mg | ClCCOCCCl | C4H8Cl2O
solvent | acetonitrile | C(C)#N | C2H3N
product | (2R)-2-(((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoyl)oxy)-8-oxa-5-azoniaspiro[4.5]decane chloride | 2.8 mg | [Cl-].FC1(C[C@@H](CC1)[C@](C(=O)O[C@H]1C[N+]2(CC1)CCOCC2)(C2=CC=CC=C2)O)F | InChI=1S/C21H28F2NO4.ClH/c22-20(23)8-6-17(14-20)21(26,16-4-2-1-3-5-16)19(25)28-18-7-9-24(15-18)10-12-27-13-11-24;/h1-5,17-18,26H,6-15H2;1H/q+1;/p-1/t17-,18-,21+;/m1./s1
